US08735435B2
Alternate route to make 2-fluoro-1-isopropenyl-4-methoxybenzene
A solution of sodium bis(trimethylsilyl)-amide, 1.0M in tetrahydrofuran (714 ml, 0.714 m) was added to a suspension of methyltriphenylphosphonium bromide (255 g, 0.714 m) in THF (2.50 L) cooled with an ice bath. The resultant yellow colored suspension was stirred for 30 minutes at ice bath temperature and then cooled to −78° C. A total of 2-fluoro-4-methoxyacetophenone (100 g, 0.595 m) in THF (200 ml) was added dropwise and stirred at −78° C. for 1.5 hours. Reaction mixture was allowed to warm to room temperature for one hour, quenched with acetic acid (˜80 ml) where color change was observed from yellow to off white and stirred for 30 minutes (pH˜7)(slight exotherm noted). The mixture was concentrated to a slush, diluted with 7:2 hexane:ethyl acetate, and was allowed to sit overnight. Solids were removed by filtration and the filtrate was concentrated to yellow oil. The title compound was obtained after flash column using 9:1 hexane:ethyl as the eluant.

reactant | sodium bis(trimethylsilyl)-amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-fluoro-4-methoxyacetophenone | 100 g | CC(=O)C1=C(C=C(C=C1)OC)F | C9H9FO2
solvent | tetrahydrofuran | 714 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 255 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 2.50 L | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-fluoro-1-isopropenyl-4-methoxybenzene | FC1=C(C=CC(=C1)OC)C(=C)C | C10H11FO
